US04596872
8-(4-Hydroxyphenyl)imidazo[1,2-a]pyridine
Combine 25 g (0.14 mol) of cyclopropyl 4-methoxyphenyl ketone with 50 g (0.73 mol) of imidazole, and heat to 200°-225° C. for 24 hr. Isolation from 200 g of silica gel using 2% methanol/methylene chloride followed by crystallization from methanol provides the title compound.

reactant | cyclopropyl 4-methoxyphenyl ketone | 0.14 mol, 25 g | COC1=CC=C(C=C1)C(=O)C1CC1 | C11H12O2
reactant | imidazole | 0.73 mol, 50 g | N1C=NC=C1 | C3H4N2
product | 8-(4-Hydroxyphenyl)imidazo[1,2-a]pyridine | OC1=CC=C(C=C1)C=1C=2N(C=CC1)C=CN2 | C13H10N2O
